US06756497B1
Preparation of 6-methyl-5-(3-methylisoxazol-5-yl)-7,7-dimethoxy-1,2,3,4-tetrachlorobicyclo[2.2.1]hept-2-ene
1.07 g of 5,5-dimethoxy-1,2,3,4-tetrachlorocyclopenta-1,3-diene, 0.34 g of sodium hydrogen carbonate, 0.50g of trans-1-(3-methylisoxazol-5-yl)-1-propene and 0.05 g of hydroquinone were mixed and heated with stirring at 180° C. for 7 hours. The reaction solution was cooled and ethyl acetate was added. Insoluble matter was removed by filtration. Then the solvent was concentrated under reduced pressure. The obtained crude product was purified on silica gel column chromatography (elution with benzene) to give 0.70 g of the title compound as a mixture of isomers.

reactant | 5,5-dimethoxy-1,2,3,4-tetrachlorocyclopenta-1,3-diene | 1.07 g | COC1(C(=C(C(=C1Cl)Cl)Cl)Cl)OC | C7H6Cl4O2
reactant | sodium hydrogen carbonate | 0.34 g | C(O)([O-])=O.[Na+]
reactant | trans-1-(3-methylisoxazol-5-yl)-1-propene | 0.50g | CC1=NOC(=C1)\C=C\C | C7H9NO
reactant | hydroquinone | 0.05 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-methyl-5-(3-methylisoxazol-5-yl)-7,7-dimethoxy-1,2,3,4-tetrachlorobicyclo[2.2.1]hept-2-ene | 0.70 g | CC1C(C2(C(=C(C1(C2(OC)OC)Cl)Cl)Cl)Cl)C2=CC(=NO2)C | C14H15Cl4NO3
